US04954659
Preparation of 1,4-bis(3,4-Dimethoxyphenyl-1-methoxybutane
A 60% dispersion of NaH in mineral oil (32.7 g, 1.3625 mole) was added portionwise over 40 minutes to a mechanically stirred solution of 1,4-bis (3,4-dimethoxyphenyl)butane-1-ol (292 g, 0.843 mole), MeI (125.4 g, 0.883 mole, 55 cc), and dry THF (1.5 1) at 22°-33° C. maintained by intermittent cooling. Additional MeI (22.8 g, 0.16 mole, 10 cc) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was treated with H2O (15 cc), stirred for 1 hour, and filtered. The filtrate was evaporated in vacuo to a syrup; the syrup was treated with CH2Cl2 (1 1) and H2O (500 cc) and the phases were separated. The aqueous phase was extracted with CH2Cl2 (1×500 cc). The combined organic phase was washed with H2O (3×400 cc), dried (Na ) and evaporated in vacuo to a yellow syrup; yield: 293 g (96%).

reactant | NaH | [H-].[Na+]
reactant | 1,4-bis (3,4-dimethoxyphenyl)butane-1-ol | 0.843 mole, 292 g | COC=1C=C(C=CC1OC)C(CCCC1=CC(=C(C=C1)OC)OC)O | C20H26O5
reactant | MeI | 0.883 mole, 55 cc, 125.4 g | CI | CH3I
reactant | THF | C1CCOC1 | C4H8O
reactant | MeI | 0.16 mole, 10 cc, 22.8 g | CI | CH3I
solvent | H2O | 15 cc | O | H2O
product | 3,4-Dimethoxyphenyl-1-methoxybutane | COC=1C=C(C=CC1OC)C(CCC)OC | C13H20O3
